datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[n+]1ccc([O-])[n+:21]([H:20])c1[S-].c1ccc2cc([S-:10])ncc2c1>>CC[n+]1ccc([O-])[n:21]c1[S-].c1ccc2cc([S:10][H:20])ncc2c1 10=20;20,21=21",
"COC(=O)C(C)(C)c1c[nH]c(CO)[n:10]1.O=C([C@H]1C[C@@H]1c1cccc(Cl)c1)[O:21][H:20]>>COC(=O)C(C)(C)c1c[nH]c(CO)[n+:10]1[H:20].O=C([C@H]1C[C@@H]1c1cccc(Cl)c1)[O-:21] 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[N+:21](C)([H:20])CC[C@]314.C[C@@H]1CNC[C@H](C)[NH:10]1>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[N:21](C)CC[C@]314.C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20] 10=20;20,21=21",
"CN1C(=O)c2c([n+:21]([H:20])cn2CC(=O)[O-])N(C)C1=O.O=C(CS/C=C/c1ccccc1)[O-:10]>>CN1C(=O)c2c([n:21]cn2CC(=O)[O-])N(C)C1=O.O=C(CS/C=C/c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"C=CCc1ccc2ccc[n:10]c2c1O.CCCCOC(=O)c1ccc[n+]([O:21][H:20])c1>>C=CCc1ccc2ccc[n+:10]([H:20])c2c1O.CCCCOC(=O)c1ccc[n+]([O-:21])c1 10=20;20,21=21",
"CCc1ccc(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O:21][H:20].O=C([C@H]1CCCC[C@@H]1O)[O-:10]>>CCc1ccc(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O-:21].O=C([C@H]1CCCC[C@@H]1O)[O:10][H:20] 10=20;20,21=21",
"CN1C(=O)Nc2c(n(C)c[n:10]2)C1=O.[NH3+]CCCCCC(=O)[O:21][H:20]>>CN1C(=O)Nc2c(n(C)c[n+:10]2[H:20])C1=O.[NH3+]CCCCCC(=O)[O-:21] 10=20;20,21=21",
"C[N+](C)(c1ccccc1)[O-:10].c1ccc(C[N+:21](Cc2ccccc2)(Cc2ccccc2)[H:20])cc1>>C[N+](C)(c1ccccc1)[O:10][H:20].c1ccc(C[N:21](Cc2ccccc2)Cc2ccccc2)cc1 10=20;20,21=21",
"CC(C)NCCCCCC[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)NCCCCCC[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1c([O-])[nH+]c2c[n:10]c([O-])nc21.c1cc(C(c2ccncc2)(c2ccncc2)[O:21][H:20])ccn1>>Cn1c([O-])[nH+]c2c[n+:10]([H:20])c([O-])nc21.c1cc(C(c2ccncc2)(c2ccncc2)[O-:21])ccn1 10=20;20,21=21",
"COc1c2cnn(C)c2nc[n:10]1.O=C(c1cnoc1)[O:21][H:20]>>COc1c2cnn(C)c2nc[n+:10]1[H:20].O=C(c1cnoc1)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC(CC(C)C)O[O-:10].C[N+:21]1([H:20])CCCC1c1cccnc1>>CCC(CC(C)C)O[O:10][H:20].C[N:21]1CCCC1c1cccnc1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:10]2.O=C([O-])c1cc[n+:21]([H:20])c2ccccc12>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:10]2[H:20].O=C([O-])c1cc[n:21]c2ccccc12 10=20;20,21=21",
"N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10].O=C(Cc1nnnn1-c1ccccc1)[O:21][H:20]>>N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20].O=C(Cc1nnnn1-c1ccccc1)[O-:21] 10=20;20,21=21",
"CCCCCC(C)[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCC(C)[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n+:21]([H:20])cn1C.Nc1ccc(C(=O)[O-])c2c1ccc[n:10]2>>CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n:21]cn1C.Nc1ccc(C(=O)[O-])c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])c(-c2cccc(Cl)n2)c1.Nc1ccc(S(=O)(=O)[N-:10]c2cccnc2)cc1>>Nc1cc[n:21]c(-c2cccc(Cl)n2)c1.Nc1ccc(S(=O)(=O)[N:10](c2cccnc2)[H:20])cc1 10=20;20,21=21",
"C/C(C#[N+][O-])=N\[O-:10].c1cncc(CCCC[NH2+:21][H:20])c1>>C/C(C#[N+][O-])=N\[O:10][H:20].c1cncc(CCCC[NH2:21])c1 10=20;20,21=21",
"C[NH2+]CC[NH:10]C.Cc1cnc2c(ccc3cc(C)c[n+:21]([H:20])c32)c1>>C[NH2+]CC[NH+:10](C)[H:20].Cc1cnc2c(ccc3cc(C)c[n:21]c32)c1 10=20;20,21=21",
"C#CCCCCCC[NH2:10].CC(=O)SCC[N+:21](C)(C)[H:20]>>C#CCCCCCC[NH2+:10][H:20].CC(=O)SCC[N:21](C)C 10=20;20,21=21",
"C1CC2CCNC2=[N:10]C1.Cc1c(Cl)ccc2c1nnn2[O:21][H:20]>>C1CC2CCNC2=[N+:10]([H:20])C1.Cc1c(Cl)ccc2c1nnn2[O-:21] 10=20;20,21=21",
"CC1=NCCc2c1[n-:10]c1ccc([N+](=O)[O-])cc21.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n+:21]2[H:20])[nH]1>>CC1=NCCc2c1[n:10]([H:20])c1ccc([N+](=O)[O-])cc21.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n:21]2)[nH]1 10=20;20,21=21",
"C#CCCCC(=O)[O:21][H:20].COc1ccc(C(c2ccccc2)=[NH:10])c(OC)c1>>C#CCCCC(=O)[O-:21].COc1ccc(C(c2ccccc2)=[NH+:10][H:20])c(OC)c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH:10]1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH+:10]1[H:20] 10=20;20,21=21",
"C[NH:10]c1ccccc1.O=C(Cc1ccccc1)C(=O)[O:21][H:20]>>C[NH+:10](c1ccccc1)[H:20].O=C(Cc1ccccc1)C(=O)[O-:21] 10=20;20,21=21",
"NC(=O)C([NH3+])Cc1c[nH]c[n:10]1.O=S(=O)(Cc1ccccc1)c1ncc[n:21]1[H:20]>>NC(=O)C([NH3+])Cc1c[nH]c[n+:10]1[H:20].O=S(=O)(Cc1ccccc1)c1ncc[n-:21]1 10=20;20,21=21",
"CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n+:21]1[H:20].ClC(Cl)C[O-:10]>>CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n:21]1.ClC(Cl)C[O:10][H:20] 10=20;20,21=21",
"O=C1CC(=O)[N-:10]C(=S)N1.c1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1>>O=C1CC(=O)[N:10]([H:20])C(=S)N1.c1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@H](C(=O)[O:21][H:20])C1(C)C.[O-]c1cn[n:10]c2ccccc12>>CC(=O)[C@@H]1C[C@H](C(=O)[O-:21])C1(C)C.[O-]c1cn[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CCN(C#[N+:21][H:20])CC.O=S(=O)(c1ccccc1)[N-:10]c1ccccc1>>CCN(C#[N:21])CC.O=S(=O)(c1ccccc1)[N:10](c1ccccc1)[H:20] 10=20;20,21=21",
